US08492559B2
Stage 5: N,N-Dimethyl-4-phenylpiperidin-4-amine dihydrochloride
10 equivalents of acetyl chloride were added to a solution of tert-butyloxycarbonyl-4-(dimethylamino)-4-phenylpiperidine in methanol at 0° C. The reaction course was monitored by thin-layer chromatography (10% MeOH/CHCl3). Once the conversion was complete, the solvent was removed under reduced pressure and the product obtained in the form of a solid.

reactant | acetyl chloride | 10 equivalents | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyloxycarbonyl-4-(dimethylamino)-4-phenylpiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)N(C)C | C18H28N2O2
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | methanol | CO | CH4O
product | N,N-Dimethyl-4-phenylpiperidin-4-amine dihydrochloride | Cl.Cl.CN(C1(CCNCC1)C1=CC=CC=C1)C | InChI=1S/C13H20N2.2ClH/c1-15(2)13(8-10-14-11-9-13)12-6-4-3-5-7-12;;/h3-7,14H,8-11H2,1-2H3;2*1H
